US06509361B1
To a solution of methyl 3-aminobenzoate (7 g, 46.36 mmol) in THF (150 mL) was added acetone (7.5 g, 102 mmol). The solution was warmed to 35° C. where sodium methoxide (3 g, 55.63 mmol) was added sequentially over 20 minutes. The mixture was stirred for 30 minutes, and then brought to reflux for 3 hours. The solvent was removed under reduced pressure and the residue taken up in ethyl acetate. The resulting solution was washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give 1-(3-aminophenyl)-1,3-butanedione as a brown oil (3.1 g, 37%). This oil was used in the next step without further purification.

reactant | methyl 3-aminobenzoate | 46.36 mmol, 7 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | acetone | 102 mmol, 7.5 g | CC(=O)C | C3H6O
reactant | sodium methoxide | 55.63 mmol, 3 g | C[O-].[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-(3-aminophenyl)-1,3-butanedione | 3.1 g, 37% | NC=1C=C(C=CC1)C(CC(C)=O)=O | C10H11NO2
